US06573283B2
(2-Pentafluoroethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl)methyl 4-methylbenzenesulfonate
A solution of 1.0 g (2.4 mmole) of [(2R)-7,8-diamino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate dihydrochloride in 30 mL of pentafluoropropionic acid was refluxed under nitrogen for 6 hours. The mixture was diluted to 400 mL with methylene chloride, washed with 400 mL of water and with 400 mL of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated to a crude foam in vacuum. The crude product was column chromatographed on silica gel with 1% methanol in chloroform and the product fractions combined and concentrated in vacuum to give 0.90 g of the (R)-enantiomer of the title compound as a yellow oil. 1H-NMR (CDCl3): doublet 7.75 δ(2H); doublet 7.3 δ(2H); doublet 7.15 δ(1H); doublet 6.9 δ(1H); multiplet 4.5 δ(1h); doublet of doublets 4.25 δ(1H); multiplet 4.2 δ(2H); doublet of doublets 4.1 δ(1H); singlet 2.4 δ(3H).

reactant | [(2R)-7,8-diamino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate dihydrochloride | 2.4 mmole, 1.0 g | Cl.Cl.CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)N
reactant | pentafluoropropionic acid | 30 mL | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2-Pentafluoroethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=CC=C3C(=C2O1)N=C(N3)C(C(F)(F)F)(F)F | C19H15F5N2O5S
